US07109354B2
e) {Imino-[5-methylsulfanyl-4-(6′-methyl-2′-{3-[4-(2-trityl-2H-tetrazol-5-yl)-butyl]-ureido}-biphenyl-3-sulfonyl)-thiophen-2-yl]-methyl}-carbamic acid tert-butyl ester
To a solution of {[4-(2′-amino-6′-methyl-biphenyl-3-sulfonyl)-5-methylsulfanyl-thiophen-2-yl]-imino-methyl}-carbamic acid tert-butyl ester (60 mg, 0.116 mmol), as prepared according to the procedure of step c of Example 25, and pyridine (10 mg, 0.128 mmol) in DCM (1.1 mL) was added 4-nitrophenyl chloroformate (23 mg, 0.116 mmol), and stirred at ambient temperature for 4 h. To the above mixture was added a solution of 4-(2-trityl-2H-tetrazol-5-yl)-butylamine (65 mg, 0.151 mmol) in DCM (0.65 mL), and stirred for 48 h. The mixture was concentrated and purified on a preparative TLC plate (1000 μm), developing with EtOAc/DCM (5 and 20%) to give the title compound (15 mg, 14% yield) as a yellow solid.

reactant | {[4-(2′-amino-6′-methyl-biphenyl-3-sulfonyl)-5-methylsulfanyl-thiophen-2-yl]-imino-methyl}-carbamic acid tert-butyl ester | 0.116 mmol, 60 mg | C(C)(C)(C)OC(NC(=N)C=1SC(=C(C1)S(=O)(=O)C=1C=C(C=CC1)C1=C(C=CC=C1C)N)SC)=O | C24H27N3O4S3
reactant | pyridine | 0.128 mmol, 10 mg | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrophenyl chloroformate | 0.116 mmol, 23 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 4-(2-trityl-2H-tetrazol-5-yl)-butylamine | 0.151 mmol, 65 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=C(N=N1)CCCCN | C24H25N5
solvent | DCM | 1.1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.65 mL | C(Cl)Cl | CH2Cl2
product | {Imino-[5-methylsulfanyl-4-(6′-methyl-2′-{3-[4-(2-trityl-2H-tetrazol-5-yl)-butyl]-ureido}-biphenyl-3-sulfonyl)-thiophen-2-yl]-methyl}-carbamic acid tert-butyl ester | 15 mg, 14% yield | C(C)(C)(C)OC(NC(C=1SC(=C(C1)S(=O)(=O)C=1C=C(C=CC1)C1=C(C=CC=C1C)NC(=O)NCCCCC=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)SC)=N)=O | C49H50N8O5S3
